US09428477B2
Production of 1-((E)-2-Decenoyl)-4-methyl-[1,4]diazepane [Compound 33]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-methyl-1,4-diazepane as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-methyl-1,4-diazepane | CN1CCNCCC1 | C6H14N2
product | 1-((E)-2-Decenoyl)-4-methyl-[1,4]diazepane | C(\C=C\CCCCCCC)(=O)N1CCN(CCC1)C | C16H30N2O
